US06399606B1
3-{[2-(N-Cyclohexylacetylamino)ethylthio]methyl}-N,N-dimethyl-4-oxo-4-(3-pyridyl)butanamide
Triethylamine (14.7 tL) was added to a solution of 3-{[2-(N-cyclohexylacetylamino)ethylthio]methyl}-4-oxo-4-(3-pyridyl)butanoic acid (44.6 mg) in dichloromethane (1.1 mL) and stirred for 30 min. The solution was cooled to 0° C. and ethyl chloroformate (10.5 μL) was added and stirred for 10 minutes. Dimethylamine in tetrahydrofuran (2M, 53 μL) was added and stirred at room temperature overnight. The solution was concentrated and purified on preparative HPLC (C-18 prep column, 10% to 90% acetronitrile in water both containing 0.1% TFA) to give 6.8 mg of the title compound; ESMS (M+1)+420.

reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-{[2-(N-cyclohexylacetylamino)ethylthio]methyl}-4-oxo-4-(3-pyridyl)butanoic acid | 44.6 mg | C1(CCCCC1)CC(=O)NCCSCC(CC(=O)O)C(C=1C=NC=CC1)=O | C20H28N2O4S
reactant | ethyl chloroformate | 10.5 μL | ClC(=O)OCC | C3H5ClO2
reactant | Dimethylamine | CNC | C2H7N
solvent | dichloromethane | 1.1 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 2M, 53 μL | O1CCCC1 | C4H8O
product | 3-{[2-(N-Cyclohexylacetylamino)ethylthio]methyl}-N,N-dimethyl-4-oxo-4-(3-pyridyl)butanamide | 6.8 mg | C1(CCCCC1)CC(=O)NCCSCC(CC(=O)N(C)C)C(C=1C=NC=CC1)=O | C22H33N3O3S
